US06380396B1
4-(3,4-Dichlorophenyl)-5-(methanesulphonyloxy)pent-1-ene (5.4 g) (see Preparation 23) and imidazole (3.6 g) were dissolved in anhydrous acetonitrile (40 ml) and the mixture heated under reflux for 100 hours. The solvent was removed under reduced pressure, the residue dissolved in dichloromethane and the solvent removed under reduced pressure. The residue was dissolved in dichloromethane (100 ml) and washed with sufficient aqueous sodium carbonate solution to ensure that the aqueous phase reached pH14. The two phases were separated and the aqueous phase extracted with dichloromethane (100 ml). The organic phases were combined and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel eluting with a solvent gradient of 100:0 changing to 98:2, by volume, dichloromethane:methanol, to give 4-(3,4-dichlorophenyl)-5-(imidazol-1-yl)pent-1-ene (3.45 g) as an orange oil.

reactant | 4-(3,4-Dichlorophenyl)-5-(methanesulphonyloxy)pent-1-ene | 5.4 g | ClC=1C=C(C=CC1Cl)C(CC=C)COS(=O)(=O)C | C12H14Cl2O3S
reactant | imidazole | 3.6 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-(3,4-dichlorophenyl)-5-(imidazol-1-yl)pent-1-ene | 3.45 g | ClC=1C=C(C=CC1Cl)C(CC=C)CN1C=NC=C1 | C14H14Cl2N2
